US04179511
6-Amino-2,2-dimethyl-3-(1-[5-methylfurfuryl]tetrazol-5-yl)penam
To a stirred solution of 1.827 g. of 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[5-methylfurfuryl]tetrazol-5-yl)penam in 3 ml. of acetone is added a solution of 0.59 g. of p-toluenesulfonic acid monohydrate in 2 ml. of acetone. The mixture is stirred at ambient temperature for 30 minutes, and then the precipitate which has formed is filtered off. This affords 0.87 g. (54% yield) of the title compound as its p-toluenesulfonate salt. The NMR spectrum of the product (CDCl3) shows absorptions at 7.28 ppm (q, 4H), 6.50 ppm (d, 1H), 6.01 ppm (s, 1H), 5.86 ppm (s, 2H), 5.71 ppm (s, 1H), 5.68 ppm (d, 1H), 5.09 ppm (d, 1H), 2.00 ppm (2s, 6H), 1.66 ppm (s, 3H) and 0.88 ppm (s, 3H).

reactant | 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[5-methylfurfuryl]tetrazol-5-yl)penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2CC2=CC=C(O2)C)C1=O | C33H32N6O2S
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | CC(=O)C | C3H6O
product | 6-Amino-2,2-dimethyl-3-(1-[5-methylfurfuryl]tetrazol-5-yl)penam | 54% yield | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2CC2=CC=C(O2)C)C1=O | C14H18N6O2S
